US07887990B2
A 25 ml reactor was charged with 1.50 g (8.2 mmol) of ethyl 2,2-difluoro-3-hydroxypentanoate, 6.5 g of chloroform, 10 mg of an antioxidant NONFLEX MBP made by Seiko Chemical Co., Ltd., 1.03 g (9.9 mmol, 1.2 eq) of methacrylic chloride, and 1.25 g (12.4 mmol, 1.5 eq) of triethylamine, followed by stirring at 55° C. for 4 hours. Then, 10 g of water was added, followed by extraction with chloroform one time. The obtained organic layer was washed with diluted hydrochloric acid and water, followed by removing water with magnesium sulfate. After conducting filtration, chloroform was distilled off, thereby obtaining 2.06 g of the target 1-ethoxycarbonyl-1,1-difluoro-2-butyl methacrylate. Purity was 66%, and yield was 66%.

reactant | ethyl 2,2-difluoro-3-hydroxypentanoate | 8.2 mmol, 1.50 g | FC(C(=O)OCC)(C(CC)O)F | C7H12F2O3
reactant | chloroform | 6.5 g | C(Cl)(Cl)Cl | CHCl3
reactant | methacrylic chloride | 9.9 mmol, 1.03 g, 1.2 eq | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | triethylamine | 12.4 mmol, 1.25 g, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | water | 10 g | O | H2O
product | 1-ethoxycarbonyl-1,1-difluoro-2-butyl methacrylate | yield was 66% | C(C(=C)C)(=O)OC(C(F)(F)C(=O)OCC)CC | C11H16F2O4
